US04560692
From 25.5 g of 6-chloro-2-phenyl-4-quinolinol and 50 ml of phosphorus oxychloride treated according to the procedure of Example 4(b) there was obtained 24.86 g of 4,6-dichloro-2-phenylquinoline, mp 114°-116°.

reactant | 6-chloro-2-phenyl-4-quinolinol | 25.5 g | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)O | C15H10ClNO
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4,6-dichloro-2-phenylquinoline | 24.86 g | ClC1=CC(=NC2=CC=C(C=C12)Cl)C1=CC=CC=C1 | C15H9Cl2N
